US04677100
(A) Benzhydryl 3-(5,6-dihydroxyisoindolin-2-yl)methyl-7-[(Z)-2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate 1-oxide
2.0 g (2.26 mmol) of Benzhydryl 3-chloromethyl-7-[(Z)-2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate 1-oxide was dissolved in 40 ml of acetone, and 750 mg (5 mmol) of sodium iodide was added thereto under cooling with ice. The mixture was stirred for 30 minutes. The reaction solution was concentrated under reduced pressure. To the residue, ethyl acetate and water were added. The organic layer was washed with a sodium metabisulfite aqueous solution and with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The oily residue was dissolved in 10 ml of N,N-dimethylformamide, and 790 mg (3.4 mmol) of 5,6-dihydroxyisoindoline hydrobromide was added thereto, then 0.47 ml (3.38 mmol) of triethylamine was dropwise added at room temperature. The reaction solution was stirred at the same temperature for 2 hours, and then N,N-dimethylformamide was distilled off under reduced pressure. To the residue, chloroform and water were added. The organic layer was washed with water and with a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel flush column chromatography (5% methanol-chloroform) to obtain 1.74 g (yield: 78%) of the above-identified compound.

reactant | Benzhydryl 3-chloromethyl-7-[(Z)-2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate 1-oxide | 2.26 mmol, 2.0 g | ClCC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC(C)C)=O)=O)=O | C48H42ClN5O6S2
reactant | sodium iodide | 5 mmol, 750 mg | [I-].[Na+]
reactant | 5,6-dihydroxyisoindoline hydrobromide | 3.4 mmol, 790 mg | Br.OC=1C=C2CNCC2=CC1O
reactant | triethylamine | 3.38 mmol, 0.47 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Benzhydryl 3-(5,6-dihydroxyisoindolin-2-yl)methyl-7-[(Z)-2-isopropoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate 1-oxide | 1.74 g, yield: 78% | OC=1C=C2CN(CC2=CC1O)CC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC(C)C)=O)=O)=O | C56H50N6O8S2
